US07855215B2
Step 29.2: 4-(1,2,3,4-Tetrahydro-quinolin-6-yloxy)-pyrimidin-2-ylamine
A solution of 5.4 g (0.02 mol) 4-chloro-6-(quinolin-6-yloxy)-pyrimidin-2-ylamine in 600 mL of THF is hydrogenated during 21 h in the presence of 1.2 g Pd/C (10% Engelhard 4505). Then the catalyst is filtered off and the filtrate concentrated in vacuuo. The residue is partitioned between ethyl acetate and conc. sodium bicarbonate solution and the organic layer washed with brine, dried and evaporated. The crude product is purified by flash-chromatography on silica gel using dichloromethane/methanol 95:5 as eluent. Fractions with pure compound are pooled and evaporated. The crystalline material is triturated with ether, filtered and dried to give the title compound: m.p. 180-182° C.; MS: [M+1]+=243; TLC (dichloromethane/methanol 95:5): Rf=0.4.

reactant | 4-chloro-6-(quinolin-6-yloxy)-pyrimidin-2-ylamine | 0.02 mol, 5.4 g | ClC1=NC(=NC(=C1)OC=1C=C2C=CC=NC2=CC1)N | C13H9ClN4O
solvent | THF | 600 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 1.2 g | [Pd] | Pd
product | 4-(1,2,3,4-Tetrahydro-quinolin-6-yloxy)-pyrimidin-2-ylamine | N1CCCC2=CC(=CC=C12)OC1=NC(=NC=C1)N | C13H14N4O
